US08138217B2
ethyl 5-{[(1-methyl-1-phenylethyl)amino]carbonyl}-3-[(4-morpholin 4-ylbenzoyl)amino]-1H-thieno[2,3-c]pyrazole-1-carboxylate
A mixture of cumylamine (1.43 g, 10.6 mmol), 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU, 3.40 g, 10.6 mmol), 1-(ethoxycarbonyl)-3-[(4-morpholin-4-ylbenzoyl)amino]-1H-thieno[2,3-c]pyrazole-5-carboxylic acid hydrochloride (3.40 mg, 7.07 mmol) and N,N′-diisopropylethylamine (12.1 mL, 7.07 mmol) in 80 mL of dimethylformamide was stirred at room temperature for 20 hours. Afterward the reaction mixture was diluted with water and extracted with dichloromethane. Volatiles were removed by evaporation under reduced pressure and the residue was triturated with ethyl acetate, filtered, extensively washed with diethyl ether and dried under vacuum at 40° C., to give 3.7 g of the title compound, used in the next step without further purification.

reactant | cumylamine | 10.6 mmol, 1.43 g | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 10.6 mmol, 3.40 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-(ethoxycarbonyl)-3-[(4-morpholin-4-ylbenzoyl)amino]-1H-thieno[2,3-c]pyrazole-5-carboxylic acid hydrochloride | 7.07 mmol, 3.40 mg | Cl.C(C)OC(=O)N1N=C(C2=C1SC(=C2)C(=O)O)NC(C2=CC=C(C=C2)N2CCOCC2)=O
reactant | N,N′-diisopropylethylamine | 7.07 mmol, 12.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 5-{[(1-methyl-1-phenylethyl)amino]carbonyl}-3-[(4-morpholin 4-ylbenzoyl)amino]-1H-thieno[2,3-c]pyrazole-1-carboxylate | 3.7 g | CC(C)(C1=CC=CC=C1)NC(=O)C1=CC2=C(N(N=C2NC(C2=CC=C(C=C2)N2CCOCC2)=O)C(=O)OCC)S1 | C29H31N5O5S
